US07713994B2
6-Bromo-4-[(4-pyridin-4-yl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione
4-Pyridin-4-yl-phenylamine (130 mg, 0.76 mmol) and 6-bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (200 mg, 0.71 mmol) is heated in N,N-dimethylformamide (10 mL) at 100° C. for 2 h. EtOAc (100 mL) and H2O (20 mL) is then added. The EtOAc layer is washed with H2O (3×20 mL) and brine (15 mL) and dried over MgSO4. After removal of EtOAc, the precipitate is collected and washed with MeOH and Et2O and dried to provide the title compound (230 mg, 77%). 1H NMR (300 MHz, DMSO) δ 12.59 (1H, d, J=12.9 Hz), 11.50 (1H, s), 9.0 (1H, d, J=12.6 Hz), 8.53-8.64 (3H, m), 7.43-7.95 (8H, m). MS (ESI) m/z 420.0, 422.0 (M+H)+1; Anal. Cacl. for C21H14BrN3O2: C, 60.02; H, 3.36; N, 10.00. Found: C, 59.4; H, 3.26; N, 9.34.

reactant | 4-Pyridin-4-yl-phenylamine | 0.76 mmol, 130 mg | N1=CC=C(C=C1)C1=CC=C(C=C1)N | C11H10N2
reactant | 6-bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.71 mmol, 200 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
reactant | H2O | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-4-[(4-pyridin-4-yl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 230 mg, 77% | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)C1=CC=NC=C1 | C21H14BrN3O2
